Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine / coconut oil / coconut
 
Attending: ___
 
Chief Complaint:
Right lower lobe pneumonia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ with a h/o DVT/PE on warfarin, 2xCVA w/ 
residual L sided weakness and R facial droop, s/p gastric bypass 
c/b GIBs SBO ?attempted reversal, s/p chole, w/ chronic 
abdominal pain on narcotics, s/p R knee menisectomy (___) 
presenting from OSH from rehab with temp to 102.6, fatigue, 
cough, SOB, found to have a RLL pneumonia.

Pt reports 1wk of fatigue, SOB, productive cough, and pleuritic 
chest pain on the right side anteriorly and posteriorly. 
+fever/chills/rigors/diaphoresis. +Nausea. No 
emesis/diarrhea/constipation. No dysuria/urinary frequency.

Patient reports R knee may be more swollen this week than last 
but hasn't noticed a difference in pain, warmth or redness.
 
Past Medical History:
R knee menisectomy ___
DVT/PE
DMII 
asthma
CVA ___ with residual left facial droop
myelopathy
obesity s/p gastric bypass
severe gastritis/esophagitis w/odynophagia
recurrent esophageal candidiasis,
multiple abdominal surgeries for "stomach leak"
s/p CCY
SBO
PUD
GERD
macrocytic anemia
h/o MRSA
 
Social History:
___
Family History:
Mother with diabetes and HTN
Brother with CHF
 
Physical Exam:
VITALS: Tm 99.3, Tc 98.8, BP 105/65 (80s-110s/50s-60s), HR 72 
(70s-90s), RR ___
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear. Pupils equal, 
round, reactive, 2.5->2. R facial droop.  
NECK: Supple
RESP: Patient speaking in full sentences. Poor inspiratory 
effort, but patient moving air bilaterally. Rales in R lung base
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
ABD: Multiple surgical scars visible with crusting along midline 
scar. +BS, soft, nondistended, tenderness to palpation is 
reportedly at baseline.   
EXT: warm, well perfused, 2+ DP in R foot, 1+ DP in L foot. No 
cyanosis. RLE non edematous. LLE 1+ nonpitting pedal edema.
NEURO: Alert, oriented. Patient speaking very slowly but no 
dysarthria. CN grossly intact EXCEPT R facial droop. Sensation 
grossly intact bilaterally. Motor: ___ ___+/5 LUE, ___ in 
both lower extremities though more difficult to assess. 

Discharge:
Vitals: T 98.2 BP 105/82, HR 76, RR 16, O2 100%RA 
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear. R facial droop. 
 
NECK: Supple
RESP: Patient speaking in full sentences. Poor inspiratory 
effort, but patient moving air well in L lung, decreased air 
movement on R side, rales not appreciated
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
ABD:soft, nondistended. No appreciable bulge at site of 
patient's "hernia-like" pain with or without valsalva 
EXT: warm, well perfused, 2+ DP in R foot, 1+ DP in L foot. No 
cyanosis. RLE non edematous. LLE 1+ nonpitting pedal edema.

 
Pertinent Results:
CT A/P (OSH ___:  
 IMPRESSION:  
 No acute/subacute intraperitoneal or retroperitoneal process.  
 S/p CCY with stable mild uniform central intrahepatic and 
extrahepatic biliary ductal dilatation. Atrophic pancreas with 
no pancreatic mass.  
 Moderately large stool volume require clinical correlation with 
respect to possible constipation.  
 Multifocal right middle and right lower lobe peribronchiolar 
nodular ainar infiltrates; pneumonitis. Post therapeutic 
impaging is required to document complete clearance-resolution.  

 CXR (OSH ___:  
 IMPRESSION:  
Right lower lobe infiltrate compatible with pneumonia in the 
appropriate clinical setting.  

___ 06:10AM BLOOD WBC-4.7 RBC-2.89* Hgb-9.1* Hct-33.1* 
MCV-115*# MCH-31.5 MCHC-27.5* RDW-15.3 RDWSD-64.8* Plt ___
___ 06:59AM BLOOD WBC-7.7 RBC-2.85* Hgb-8.9* Hct-29.4* 
MCV-103* MCH-31.2 MCHC-30.3* RDW-15.4 RDWSD-58.1* Plt ___
___ 12:42PM BLOOD WBC-10.5* RBC-3.24* Hgb-9.9* Hct-32.9* 
MCV-102* MCH-30.6 MCHC-30.1* RDW-15.2 RDWSD-56.9* Plt ___
___ 12:42PM BLOOD Neuts-85.4* Lymphs-10.3* Monos-2.7* 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-8.96* AbsLymp-1.08* 
AbsMono-0.28 AbsEos-0.05 AbsBaso-0.02
___ 05:37PM BLOOD ___
___ 06:10AM BLOOD Plt ___
___ 06:59AM BLOOD Plt ___
___ 06:59AM BLOOD ___ PTT-36.0 ___
___ 11:44PM BLOOD ___ PTT-31.5 ___
___ 06:10AM BLOOD Glucose-81 UreaN-9 Creat-0.6 Na-138 K-4.0 
Cl-110* HCO3-23 AnGap-9
___ 06:59AM BLOOD Glucose-71 UreaN-11 Creat-0.7 Na-139 
K-3.9 Cl-106 HCO3-23 AnGap-14
___ 06:59AM BLOOD ALT-31 AST-36 LD(LDH)-202 AlkPhos-79 
TotBili-0.3
___ 06:10AM BLOOD Calcium-7.8* Phos-2.0* Mg-1.8
___ 06:59AM BLOOD Albumin-2.8* Calcium-7.8* Phos-3.0 Mg-1.7
___ 12:49PM BLOOD Lactate-1.7
___ 05:00PM URINE Color-Yellow Appear-Clear Sp ___
___ 05:00PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-7.5 Leuks-NEG
___ 05:00PM URINE RBC-<1 WBC-0 Bacteri-NONE Yeast-NONE 
Epi-1
___ 03:05PM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
 
Brief Hospital Course:
#HCAP: Patient's symptoms of fever, cough, pleuritic CP w/ CXR 
evidence of RLL infiltrate suggestive of PNA. Patient had recent 
surgery and came from rehab, therefore HCAP. Patient met sepsis 
criteria on admission ___. Given 2L NS and started empirically 
on vanc/zosyn; blood/urine/sputum cultures drawn. On ___ no 
longer met criteria as afebrile, normal HR, and WBC 7.7. Had 
SBPs in the high ___ in evening of ___ so received an 
additional liter of NS. Lasix was held in the setting of 
hypotension. She was initially switched to vanc/cefepime on ___ 
and then further changed to levofloxacin/doxycyline. She was 
observed on this regimen for one day and then discharged on ___ 
given continued clinical improvement.

#History of DVT/PE/Stroke: Patient on warfarin at home though 
INR 1.1 on admission. She was started on a bridge w/ lovenox on 
___ while continuing home dose of warfarin, 12mg. INR 1.1 on 
___. No events during this hospitalization.

#QTc: Patient's initial QTc 599, repeat 429, both on day of 
admission ___. Elevated QTc likely due to antibiotics. Patient 
was monitored on telemetry.

Chronic issues:
#Chronic abdominal pain: Pt has pain following multiple 
abdominal surgeries. Received an abd/pelvis CT at the outside 
hospital that was reportedly negative for acute process. We 
continued her home pain regimen with good pain control.

#Depression: Patient's home medications were continued with no 
emotional or behavioral issues during hospitalization.

TRANSITIONAL ISSUES:
- Discharged on PO doxycycline and PO levofloxacin for total 8 
days course ___ last day ___ 
- INR: The patient should continue lovenox until INR is in 
therapeutic range ___.
- R Knee: Patient should continue physical therapy and 
rehabilitation following R knee menisectomy on ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H 
2. Bisacodyl ___AILY:PRN constipation 
3. BuPROPion (Sustained Release) 150 mg PO BID 
4. Docusate Sodium 100 mg PO BID 
5. Furosemide 60 mg PO DAILY 
6. Gabapentin 400 mg PO TID 
7. Methadone 20 mg PO TID 
8. Pantoprazole 40 mg PO Q12H 
9. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
10. QUEtiapine Fumarate 100 mg PO QAM 
11. QUEtiapine Fumarate 275 mg PO QHS 
12. Senna 8.6 mg PO BID 
13. Sucralfate 1 gm PO QID 
14. Warfarin 12 mg PO DAILY16 
15. Ascorbic Acid ___ mg PO DAILY 
16. Calcium Carbonate 500 mg PO Q4H:PRN gi upset 
17. ClonazePAM 0.5 mg PO QAM 
18. ClonazePAM 1 mg PO AT 2PM 
19. ClonazePAM 1.5 mg PO QHS 
20. Doxepin HCl 100 mg PO HS 
21. Ferrous Sulfate 325 mg PO DAILY 
22. FoLIC Acid 1 mg PO DAILY 
23. HYDROmorphone (Dilaudid) 6 mg PO Q4H:PRN pain 
24. Ondansetron 4 mg PO Q8H:PRN nausea 
25. Vitamin B-1 (thiamine HCl (vitamin B1)) 100 mg oral DAILY 
26. Vitamin D ___ UNIT PO QMONTHLY 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
2. Ascorbic Acid ___ mg PO DAILY 
3. Bisacodyl ___AILY:PRN constipation 
4. BuPROPion (Sustained Release) 150 mg PO BID 
5. Calcium Carbonate 500 mg PO Q4H:PRN gi upset 
6. ClonazePAM 0.5 mg PO QAM 
7. ClonazePAM 1 mg PO AT 2PM 
8. ClonazePAM 1.5 mg PO QHS 
9. Docusate Sodium 100 mg PO BID 
10. Doxepin HCl 100 mg PO HS 
11. Ferrous Sulfate 325 mg PO DAILY 
12. FoLIC Acid 1 mg PO DAILY 
13. Gabapentin 400 mg PO TID 
14. HYDROmorphone (Dilaudid) 6 mg PO Q4H:PRN pain 
15. Methadone 20 mg PO TID 
16. Ondansetron 4 mg PO Q8H:PRN nausea 
17. Pantoprazole 40 mg PO Q12H 
18. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
19. QUEtiapine Fumarate 100 mg PO QAM 
20. QUEtiapine Fumarate 275 mg PO QHS 
21. Senna 8.6 mg PO BID 
22. Sucralfate 1 gm PO QID 
23. Vitamin B-1 (thiamine HCl (vitamin B1)) 100 mg oral DAILY 
24. Warfarin 12 mg PO DAILY16 
25. Enoxaparin Sodium 100 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
26. Furosemide 60 mg PO DAILY 
27. Vitamin D ___ UNIT PO QMONTHLY 
28. Doxycycline Hyclate 100 mg PO Q12H Duration: 6 Days 
To end ___. Levofloxacin 750 mg PO DAILY 
last dose to be given on ___, then please discontinue. 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Sepsis
Health Care Associated Pneumonia

Secondary
Prior stroke 
pulmonary embolism
Chronic Abdominal pain on narcotics

 
Discharge Condition:
Mental Status: Alert and oriented to self, place and time
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted to ___ with 
pneumonia. You were treated with antibiotics while you were 
here. You were also given fluids and your home medications. 
While you were here, your warfarin blood test showed that the 
level was too low so you were put on an additional blood 
thinning medication called lovenox. This medicine is only 
important until the warfarin level rises to the appropriate 
level and can then be discontinued. 

While you were here, you had improvement in your cough. Your 
blood tests also indicated that the antibiotics were effectively 
fighting your infection. 
 
Followup Instructions:
___